US04544655
A solution, cooled to -2°, of 5.65 g of 4-hydroxy-3-methoxycarbonyl-6-trifluoromethyl-2H-thieno[2,3-e]-1,2-thiazine 1,1-dioxide in 62 ml of absolute dimethylformamide is treated portionwise under a strong nitrogen stream with 0.87 g of sodium hydride (washed with benzene), the mixture is stirred at 5° for an additional 1.5 hours, then 1.49 ml of methyl iodide are added thereto in one portion, the temperature rising to about 15°. The mixture is stirred at room temperature for an additional 1.5 hours and then evaporated in vacuo. The residue is partitioned between 2N hydrochloric acid and methylene chloride, the aqueous phase is extracted three times with methylene chloride, the combined organic extracts are dried over sodium sulfate and evaporated. The brown crystalline residue is digested with about 50 ml of ethanol, the almost colorless crystals are removed by filtration under suction and washed with methanol. After recrystallization from ethanol, there is obtained 4-hydroxy-3-methoxycarbonyl-2-methyl-6-trifluoromethyl-2H-thieno[ 2,3-e]-1,2-thiazine 1,1-dioxide of melting point 178°-180°.

reactant | 4-hydroxy-3-methoxycarbonyl-6-trifluoromethyl-2H-thieno[2,3-e]-1,2-thiazine 1,1-dioxide | 5.65 g | OC1=C(NS(C2=C1SC(=C2)C(F)(F)F)(=O)=O)C(=O)OC | C9H6F3NO5S2
reactant | sodium hydride | 0.87 g | [H-].[Na+]
reactant | methyl iodide | 1.49 ml | CI | CH3I
solvent | dimethylformamide | 62 ml | CN(C=O)C | C3H7NO
product | 4-hydroxy-3-methoxycarbonyl-2-methyl-6-trifluoromethyl-2H-thieno[ 2,3-e]-1,2-thiazine 1,1-dioxide | OC1=C(N(S(C2=C1SC(=C2)C(F)(F)F)(=O)=O)C)C(=O)OC | C10H8F3NO5S2
